US04188395
2-Phthalimidomethyl-6-methyl-4-(2'-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
28 g of 2-chlorobenzaldehyde, 56 g of phthalimidoacetoacetic acid ethyl ester and 25.8 g of β-aminocrotonic acid ethyl ester in 250 ccs of ethanol are heated to the boil under reflux for about 70 hours, the mixture is allowed to cool, whilst stirring, and, after filtering, light yellow crystals of melting point 166° C. are obtained, yield: 50%.

reactant | 2-chlorobenzaldehyde | 28 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | phthalimidoacetoacetic acid ethyl ester | 56 g | C(C)OC(CC(=O)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H13NO5
reactant | β-aminocrotonic acid ethyl ester | 25.8 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Phthalimidomethyl-6-methyl-4-(2'-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield: 50% | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)Cl)C(=O)OCC)C)CN1C(C=2C(C1=O)=CC=CC2)=O | C27H25ClN2O6
